US05447818
In a 3 l reaction vessel were charged 500 ml of N,N-dimethylformamide, 378 g of diethylamine, and 10 g of a polymerization inhibitor Irganox 1010, produced by Ciba-Geigy Ltd. To the mixture at 40° C. was added dropwise 100 g of chloromethylstyrene (a 60:40 mixture of meta-compound and para-compound) with stirring, taking care not to raise the inner temperature above 60° C. After the addition, the inner temperature was elevated to 75° C., at which the reaction mixture was stirred for 3 hours. The reaction mixture was poured into 5 l of water and extracted with 3 l of n-hexane. The aqueous layer was removed, and the extract was further extracted with a mixed solvent of 425 ml of concentrated hydrochloric acid and 425 ml of water. The hexane layer was removed, and a solution of 300 g of sodium hydroxide in 3 l of water was added, and the mixture was extracted with n-hexane. The hexane layer was dried over 20 g of magnesium sulfate and distilled under reduced pressure. The fraction of from 90° to 100° C. was recovered to obtain 70 g of diethylaminomethylstyrene.

reactant | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | diethylamine | 378 g | C(C)NCC | C4H11N
reactant | Irganox 1010 | CC(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)CCC(=O)OCC(COC(=O)CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)(COC(=O)CCC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)COC(=O)CCC4=CC(=C(C(=C4)C(C)(C)C)O)C(C)(C)C | C73H108O12
reactant | chloromethylstyrene | 100 g | ClCC=CC1=CC=CC=C1 | C9H9Cl
solvent | water | 5 l | O | H2O
product | diethylaminomethylstyrene | 70 g | C(C)N(CC)CC=CC1=CC=CC=C1 | C13H19N
